US06433175B1
(RS)-1-(7-Methoxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-(trifluoroacetamido)-propane
To a stirred solution of (RS)-1-(7-methoxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-propylamine (0.28 g, 1.1 mmol) in dichloromethane (10 mL) at 0° C. was added dropwise trifluoroacetic anhydride (0.18 mL, 1.3 mmol). The mixture was stirred for 1 h, concentrated in vacuo and purified by column chromatography (SiO2; ether) to afford the product (0.39 g, 100%) as a beige solid: mp 131-3° C.; IR νmax (Nujol)/cm−1 3307, 3105, 2925, 2855, 2727, 1784, 1695, 1501, 1377, 1249, 1228, 1194, 1171, 1041, 844, 784 and 724; NMR δH (400 MHz, CDCl3) 1.24 (3H, d, J 6.5 Hz) 2.60 (2H, m) 2.92 (4H, m) 3.85 (3H, s) 4.03 (2H, t, J 7 Hz) 4.36 (1H, m) 6.37 (1H, d, J 6.5 Hz, NH) 6.79 (1H, dd, J 2.5, 8.5 Hz) 6.96 (1H, d, J 3 Hz) 7.11 (lH, d, J 9 Hz).

reactant | (RS)-1-(7-methoxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-propylamine | 1.1 mmol, 0.28 g | COC1=CC=2C(=C3N(C2C=C1)CCC3)CC(C)N | C15H20N2O
reactant | trifluoroacetic anhydride | 1.3 mmol, 0.18 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (RS)-1-(7-Methoxy-2,3-dihydro-1H-pyrrolo[1,2-a]indol-9-yl)-2-(trifluoroacetamido)-propane | 0.39 g, 100% | COC1=CC=2C(=C3N(C2C=C1)CCC3)CC(C)NC(C(F)(F)F)=O | C17H19F3N2O2
